*  Sonnet Data File
*  From: emgraph Version : 16.56
*  From Project: Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness
*  Data is De-embedded 
*  Data File Written: 03/24/2020 17:01:58
* < HDATE 03/06/2020 17:23:53
* < MDATE 03/06/2020 17:24:47
* < PARAMS
* < ILD_thickness = 0.2
* < ILD_dielectric_const = 3.9
* < END PARAMS
*  Spice Data
* Limits: C>0.01pF L<100.0nH R<1000.0Ohms K>0.01
    *  Analysis frequencies: 100.0, 110.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param16_0 1 2 3 4 REF
C_C1 1 REF 0.7045981136973pf
C_C2 1 2 17.829627068714pf
C_C3 1 3 0.0296664281665pf
C_C4 1 4 0.2444044844453pf
C_C5 2 REF 0.933983573364pf
C_C6 2 3 0.1261052921886pf
C_C7 3 REF 0.6147121227974pf
C_C8 3 4 5.60098269354pf
C_C9 4 REF 0.6196163271323pf
L_L1 3 5 1.2964669841593nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param16_0

    *  Analysis frequencies: 110.0, 120.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param16_1 1 2 3 4 REF
C_C1 1 REF 0.5980909535118pf
C_C2 1 2 18.245080008792pf
C_C3 1 3 0.0272754336356pf
C_C4 1 4 0.2489545829157pf
C_C5 2 REF 0.834637910048pf
C_C6 2 3 0.1267629403037pf
C_C7 3 REF 0.6164925918821pf
C_C8 3 4 4.1399516611274pf
C_C9 4 REF 0.6187239715717pf
L_L1 3 5 1.2976410637897nh
R_RL1 5 4 2.7106056677e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param16_1

    *  Analysis frequencies: 120.0, 130.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param16_2 1 2 3 4 REF
C_C1 1 REF 0.5134792513006pf
C_C2 1 2 18.703405637704pf
C_C3 1 3 0.0248815775538pf
C_C4 1 4 0.2539637422231pf
C_C5 2 REF 0.7576119203356pf
C_C6 2 3 0.1275218445651pf
C_C7 3 REF 0.6181704389245pf
C_C8 3 4 3.1186374405291pf
C_C9 4 REF 0.6182559997026pf
L_L1 3 5 1.2986194369835nh
R_RL1 5 4 1.6543517631e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param16_2

    *  Analysis frequencies: 130.0, 145.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param16_3 1 2 3 4 REF
C_C1 1 REF 0.434628145344pf
C_C2 1 2 19.332207901465pf
C_C3 1 3 0.021883350667pf
C_C4 1 4 0.2609123821922pf
C_C5 2 REF 0.688949835479pf
C_C6 2 3 0.1286679869532pf
C_C7 3 REF 0.6200718307796pf
C_C8 3 4 2.2387509446061pf
C_C9 4 REF 0.6180747934573pf
L_L1 3 5 1.2996100408772nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param16_3

    *  Analysis frequencies: 145.0, 160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param16_4 1 2 3 4 REF
C_C1 1 REF 0.3699915895463pf
C_C2 1 2 20.147683365425pf
C_C3 1 3 0.0183227464207pf
C_C4 1 4 0.2700818852492pf
C_C5 2 REF 0.6374789988825pf
C_C6 2 3 0.1303446407417pf
C_C7 3 REF 0.6220099359624pf
C_C8 3 4 1.532621962519pf
C_C9 4 REF 0.6181860763292pf
L_L1 3 5 1.3006006741061nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param16_4

    *  Analysis frequencies: 160.0, 175.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param16_5 1 2 3 4 REF
C_C1 1 REF 0.3291959874282pf
C_C2 1 2 21.037969584209pf
C_C3 1 3 0.0147452098883pf
C_C4 1 4 0.2802746580259pf
C_C5 2 REF 0.6111554460456pf
C_C6 2 3 0.1324137802243pf
C_C7 3 REF 0.623568925919pf
C_C8 3 4 1.0646262223856pf
C_C9 4 REF 0.6184828873207pf
L_L1 3 5 1.3014011647183nh
R_RL1 5 4 -2.058816972e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param16_5

    *  Analysis frequencies: 175.0, 190.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param16_6 1 2 3 4 REF
C_C1 1 REF 0.3043642763692pf
C_C2 1 2 22.009266783938pf
C_C3 1 3 0.011092908461pf
C_C4 1 4 0.2915437699651pf
C_C5 2 REF 0.6022399473919pf
C_C6 2 3 0.1349127917589pf
C_C7 3 REF 0.6247706709933pf
C_C8 3 4 0.7435301721753pf
C_C9 4 REF 0.6188470974372pf
L_L1 3 5 1.3020589031049nh
R_RL1 5 4 -3.065911369e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param16_6

    *  Analysis frequencies: 190.0, 210.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param16_7 1 2 3 4 REF
C_C1 1 REF 0.2880614774469pf
C_C2 1 2 23.266997610123pf
C_C3 1 4 0.3062570081254pf
C_C4 2 REF 0.6066213979659pf
C_C5 2 3 0.1384489986809pf
C_C6 3 REF 0.6257711522495pf
C_C7 3 4 0.4868176363473pf
C_C8 4 REF 0.6192751878143pf
L_L1 3 5 1.3026793398882nh
R_RL1 5 4 -4.016717639e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param16_7

    *  Analysis frequencies: 210.0, 230.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param16_8 1 2 3 4 REF
C_C1 1 REF 0.2781174375488pf
C_C2 1 2 24.873366210984pf
C_C3 1 4 0.3250897713718pf
C_C4 2 REF 0.6229805968655pf
C_C5 2 3 0.1433066550503pf
C_C6 3 REF 0.6264903641835pf
C_C7 3 4 0.2886773975742pf
C_C8 4 REF 0.6197130740567pf
L_L1 3 5 1.3032648353749nh
R_RL1 5 4 -4.854955341e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param16_8

    *  Analysis frequencies: 230.0, 255.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param16_9 1 2 3 4 REF
C_C1 1 REF 0.2710832055871pf
C_C2 1 2 26.971615625579pf
C_C3 1 4 0.34958443209pf
C_C4 2 REF 0.6498121575227pf
C_C5 2 3 0.1500511796965pf
C_C6 3 REF 0.6268742756029pf
C_C7 3 4 0.1421858488062pf
C_C8 4 REF 0.6201218753606pf
L_L1 1 5 83.492427733976nh
R_RL1 5 2 6.2083727667437
L_L2 3 6 1.3037591950348nh
R_RL2 6 4 -5.448709953e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param16_9

    *  Analysis frequencies: 255.0, 280.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param16_10 1 2 3 4 REF
C_C1 1 REF 0.2622699152054pf
C_C2 1 2 29.725707568508pf
C_C3 1 4 0.3814284076174pf
C_C4 2 REF 0.6844790380631pf
C_C5 2 3 0.1593048430607pf
C_C6 3 REF 0.6269353925686pf
C_C7 3 4 0.0357271734802pf
C_C8 4 REF 0.6204849424021pf
L_L1 1 5 52.278919943237nh
R_RL1 5 2 3.1751546976643
L_L2 3 6 1.3041738846969nh
R_RL2 6 4 -5.726412473e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param16_10

    *  Analysis frequencies: 280.0, 310.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param16_11 1 2 3 4 REF
C_C1 1 REF 0.2462021840867pf
C_C2 1 2 33.491643733544pf
C_C3 1 4 0.4243902657424pf
C_C4 2 REF 0.7262649671525pf
C_C5 2 3 0.1723707540425pf
C_C6 3 REF 0.6266972489514pf
C_C7 4 REF 0.6208146280909pf
L_L1 1 5 32.357975100528nh
R_RL1 5 2 1.2119135173839
L_L2 3 6 1.3042263712887nh
R_RL2 6 4 -5.582748327e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param16_11

    *  Analysis frequencies: 310.0, 340.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param16_12 1 2 3 4 REF
C_C1 1 REF 0.2170493925134pf
C_C2 1 2 38.782795422065pf
C_C3 1 4 0.4839263688947pf
C_C4 2 REF 0.7763267879354pf
C_C5 2 3 0.1910914685421pf
C_C6 3 REF 0.6262160376255pf
C_C7 4 REF 0.6211565041487pf
L_L1 1 5 19.546600757197nh
R_RL1 5 2 0.233907056795
L_L2 3 6 1.3039551123744nh
R_RL2 6 4 -4.973081468e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param16_12

    *  Analysis frequencies: 340.0, 375.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param16_13 1 2 3 4 REF
C_C1 1 REF 0.1654658518233pf
C_C2 1 2 46.755318530346pf
C_C3 1 4 0.5725416757745pf
C_C4 2 REF 0.8415929862865pf
C_C5 2 3 0.2195994537957pf
C_C6 3 REF 0.625522097257pf
C_C7 4 REF 0.6216081132747pf
L_L1 1 5 11.400817672827nh
R_RL1 5 2 -0.034580269484
L_L2 3 6 1.3034616975114nh
R_RL2 6 4 -3.875430684e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param16_13

    *  Analysis frequencies: 375.0, 410.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param16_14 1 2 3 4 REF
C_C1 1 REF 0.07606320042pf
C_C2 1 2 59.568144620754pf
C_C3 1 4 0.7137631028226pf
C_C4 2 REF 0.9375034558892pf
C_C5 2 3 0.265582068339pf
C_C6 3 REF 0.6246227771256pf
C_C7 4 REF 0.6223525530244pf
R_R1 1 2 466.92596775219
L_L1 1 5 6.3661441217997nh
R_RL1 5 2 0.1404915671501
L_L2 3 6 1.3026686473026nh
R_RL2 6 4 -2.302201392e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param16_14

    *  Analysis frequencies: 410.0, 450.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param16_15 1 2 3 4 REF
C_C1 1 2 83.048307726098pf
C_C2 1 4 0.9713318224822pf
C_C3 2 REF 1.1065859799655pf
C_C4 2 3 0.3498315380018pf
C_C5 3 REF 0.6234087638714pf
C_C6 4 REF 0.6238507564368pf
R_R1 1 2 192.33938808611
L_L1 1 5 3.1999207021326nh
R_RL1 5 2 -0.287523700016
L_L2 3 6 1.3011920790647nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param16_15

    *  Analysis frequencies: 450.0, 495.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param16_16 1 2 3 4 REF
C_C1 1 2 139.7020045876pf
C_C2 1 4 1.5916931500181pf
C_C3 2 REF 1.5115708024746pf
C_C4 2 3 0.5528012927874pf
C_C5 3 REF 0.6212913528089pf
C_C6 4 REF 0.6278422741393pf
R_R1 1 2 69.271876456767
L_L1 1 5 1.2950992786551nh
R_RL1 5 2 -0.17353395268
L_L2 1 6 57.137415560249nh
R_RL2 6 3 -0.20391104649
L_L3 1 7 56.405923409953nh
R_RL3 7 4 -0.204851031989
L_L4 2 8 57.240670108033nh
R_RL4 8 3 0.0162652544659
L_L5 2 9 56.512250380102nh
R_RL5 9 4 0.0159441738139
L_L6 3 10 1.2977359537314nh
R_RL6 10 4 1.7413319558e-5
Kn_K1 L_L1 L_L2 0.0692752111471
Kn_K2 L_L1 L_L3 0.0695432202128
Kn_K3 L_L1 L_L4 -0.081205079165
Kn_K4 L_L1 L_L5 -0.081906321233
Kn_K5 L_L2 L_L3 0.98859108302
Kn_K6 L_L2 L_L4 0.9886774359583
Kn_K7 L_L2 L_L5 0.977173470661
Kn_K8 L_L2 L_L6 -0.11782770212
Kn_K9 L_L3 L_L4 0.9772385003777
Kn_K10 L_L3 L_L5 0.9885310774248
Kn_K11 L_L3 L_L6 0.0330916133765
Kn_K12 L_L4 L_L5 0.9886118944724
Kn_K13 L_L4 L_L6 -0.117543141315
Kn_K14 L_L5 L_L6 0.0332398531625
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param16_16

    *  Analysis frequencies: 495.0, 545.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param16_17 1 2 3 4 REF
C_C1 1 2 363.82204288598pf
C_C2 1 4 4.0450725237011pf
C_C3 2 REF 3.1170163458108pf
C_C4 2 3 1.3551195456231pf
C_C5 3 REF 0.614835634745pf
C_C6 4 REF 0.6448498241855pf
R_R1 1 2 13.989823080729
L_L1 1 5 40.351413703012nh
R_RL1 5 REF -1.388494076508
L_L2 1 6 0.3372832491202nh
R_RL2 6 2 -0.07432435583
L_L3 1 7 17.506974277062nh
R_RL3 7 3 -0.0647617954
L_L4 1 8 16.824712269894nh
R_RL4 8 4 -0.066341170399
L_L5 2 9 40.111589118753nh
R_RL5 9 REF -1.52741104854
L_L6 2 10 17.571960422121nh
R_RL6 10 3 0.0026104308229
L_L7 2 11 16.893881418517nh
R_RL7 11 4 0.0025487483042
L_L8 3 12 57.462669809848nh
R_RL8 12 REF -1.492048685337
L_L9 3 13 1.2842853322318nh
R_RL9 13 4 3.2165343171e-5
L_L10 4 14 56.771454583807nh
R_RL10 14 REF -1.494529521611
Kn_K1 L_L1 L_L2 0.0782168298298
Kn_K2 L_L1 L_L5 0.9958126427346
Kn_K3 L_L1 L_L8 0.8338764715257
Kn_K4 L_L1 L_L10 0.8388439724947
Kn_K5 L_L2 L_L3 0.0560286416511
Kn_K6 L_L2 L_L4 0.0562753817464
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.082618917639
Kn_K9 L_L2 L_L7 -0.085136851861
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9627819678314
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9903867196943
Kn_K15 L_L3 L_L7 0.9528922980696
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.207366263192
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9532033884232
Kn_K21 L_L4 L_L7 0.9899991969984
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0647558097199
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8331911243723
Kn_K26 L_L5 L_L10 0.838110357915
Kn_K27 L_L6 L_L7 0.962923819477
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.206542189824
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0650721248499
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.1149803164929
Kn_K35 L_L8 L_L10 0.9887755294829
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param16_17

    *  Analysis frequencies: 545.0, 600.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param16_18 1 2 3 4 REF
C_C1 1 REF 48.784900872183pf
C_C2 1 3 23.577772865263pf
C_C3 2 4 73.117364629184pf
C_C4 3 REF 0.7942852265857pf
C_C5 4 REF 0.0848602639234pf
R_R1 1 REF -16.49308930258
R_R2 1 2 0.1091258851113
R_R3 1 3 -28.42813103589
R_R4 1 4 10.227834106079
R_R5 2 REF 16.482344527772
R_R6 2 3 28.433917320757
R_R7 2 4 -10.23004582822
L_L1 1 5 1.4835246207132nh
R_RL1 5 REF -2.53524068e-3
L_L2 1 6 0.0146345219508nh
R_RL2 6 2 -0.10125132286
L_L3 1 7 1.2932798557268nh
R_RL3 7 3 -0.031959213081
L_L4 1 8 0.7912349839452nh
R_RL4 8 4 -0.067369503267
L_L5 2 9 1.478662577178nh
R_RL5 9 REF -0.104654043832
L_L6 2 10 1.2933047480942nh
R_RL6 10 3 -0.019349339583
L_L7 2 11 0.7946472044148nh
R_RL7 11 4 -3.414858695e-3
L_L8 3 12 2.7687905872758nh
R_RL8 12 REF -0.034848380137
L_L9 3 13 0.9773088840316nh
R_RL9 13 4 -6.474174175e-3
L_L10 4 14 2.2723272978583nh
R_RL10 14 REF -0.070543687218
Kn_K1 L_L1 L_L2 0.0661593862661
Kn_K2 L_L1 L_L5 0.9950608957254
Kn_K3 L_L1 L_L8 0.7300081757699
Kn_K4 L_L1 L_L10 0.8073386932607
Kn_K5 L_L2 L_L3 0.0530974521825
Kn_K6 L_L2 L_L4 0.0521446702246
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.053277877824
Kn_K9 L_L2 L_L7 -0.083674355121
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 -0.014161918018
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.5472672007991
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9943421445368
Kn_K16 L_L3 L_L7 0.5388852589104
Kn_K17 L_L3 L_L8 0.781859732718
Kn_K18 L_L3 L_L9 -0.657930262907
Kn_K19 L_L3 L_L10 0.8646829390095
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.5417150542622
Kn_K22 L_L4 L_L7 0.990774292684
Kn_K23 L_L4 L_L8 0.9995910585818
Kn_K24 L_L4 L_L9 0.2702316858128
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L8 0.7299997628748
Kn_K27 L_L5 L_L10 0.8064079348779
Kn_K28 L_L6 L_L7 0.5477809172783
Kn_K29 L_L6 L_L8 0.780560955972
Kn_K30 L_L6 L_L9 -0.656417459785
Kn_K31 L_L6 L_L10 0.8622613055007
Kn_K32 L_L7 L_L8 0.9957953178694
Kn_K33 L_L7 L_L9 0.2715727439976
Kn_K34 L_L7 L_L10 1.0
Kn_K35 L_L8 L_L9 0.4479601468532
Kn_K36 L_L8 L_L10 0.8100704580508
Kn_K37 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param16_18

    *  Analysis frequencies: 600.0, 660.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param16_19 1 2 3 4 REF
C_C1 1 2 4635.6530736962pf
C_C2 1 4 51.069734528693pf
C_C3 2 REF 34.269057592997pf
C_C4 2 3 16.406963944458pf
C_C5 3 REF 0.5034420220342pf
C_C6 4 REF 0.9860421639128pf
R_R1 1 REF 19.457750073576
R_R2 1 2 -0.130546819835
R_R3 1 3 34.368182299985
R_R4 1 4 -12.18646799662
R_R5 2 REF -19.48474953308
R_R6 2 3 -34.37609300848
R_R7 2 4 12.189099452096
L_L1 1 5 1.7479328999957nh
R_RL1 5 REF -4.005920721e-3
L_L2 1 6 0.0107006427077nh
R_RL2 6 2 0.0171132669293
L_L3 1 7 1.4544261306133nh
R_RL3 7 3 0.0050807650388
L_L4 1 8 0.9204033015625nh
R_RL4 8 4 0.0102493969344
L_L5 2 9 1.7336564646689nh
R_RL5 9 REF 0.0103719395908
L_L6 2 10 1.4568947183838nh
R_RL6 10 3 0.0035215545996
L_L7 2 11 0.9290962312221nh
R_RL7 11 4 8.4956955579e-4
L_L8 3 12 3.187782829873nh
R_RL8 12 REF -5.027904607e-4
L_L9 3 13 1.0208245732916nh
R_RL9 13 4 9.3804784263e-4
L_L10 4 14 2.6482579659215nh
R_RL10 14 REF 0.0040168064053
Kn_K1 L_L1 L_L2 0.0913154628913
Kn_K2 L_L1 L_L5 0.9969348879037
Kn_K3 L_L1 L_L8 0.7374004783028
Kn_K4 L_L1 L_L10 0.8077569573059
Kn_K5 L_L2 L_L3 0.032993432375
Kn_K6 L_L2 L_L4 0.0101152735087
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.052736510127
Kn_K9 L_L2 L_L7 -0.097250655787
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 -0.02977713804
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.5851339660888
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9963248296846
Kn_K16 L_L3 L_L7 0.5788493746494
Kn_K17 L_L3 L_L8 0.8083881880294
Kn_K18 L_L3 L_L9 -0.638023073027
Kn_K19 L_L3 L_L10 0.8855177102509
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.5837711263774
Kn_K22 L_L4 L_L7 0.9942252856348
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.2511062302133
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L8 0.7368689769578
Kn_K27 L_L5 L_L10 0.805716117087
Kn_K28 L_L6 L_L7 0.5866933341016
Kn_K29 L_L6 L_L8 0.8038179679439
Kn_K30 L_L6 L_L9 -0.634930345518
Kn_K31 L_L6 L_L10 0.8789202860057
Kn_K32 L_L7 L_L8 1.0
Kn_K33 L_L7 L_L9 0.2531243910259
Kn_K34 L_L7 L_L10 1.0
Kn_K35 L_L8 L_L9 0.4324858984662
Kn_K36 L_L8 L_L10 0.8286312173121
Kn_K37 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param16_19

    *  Analysis frequencies: 660.0, 725.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param16_20 1 2 3 4 REF
C_C1 1 2 168.77335398694pf
C_C2 1 4 1.9062896090376pf
C_C3 2 REF 1.7198215681242pf
C_C4 2 3 0.6557776328552pf
C_C5 3 REF 0.6175584224162pf
C_C6 4 REF 0.6268681484865pf
R_R1 1 2 -39.68329452358
L_L1 1 5 67.927746945195nh
R_RL1 5 REF -5.313781807008
L_L2 1 6 0.2368625601081nh
R_RL2 6 2 0.0297987598781
L_L3 1 7 22.126519587693nh
R_RL3 7 3 -8.013679879e-3
L_L4 1 8 21.407139445744nh
R_RL4 8 4 -7.607753145e-3
L_L5 2 9 67.192680591719nh
R_RL5 9 REF -5.341620896991
L_L6 2 10 22.304986049409nh
R_RL6 10 3 0.011832632147
L_L7 2 11 21.593958411459nh
R_RL7 11 4 0.0110583545326
L_L8 3 12 89.602541031782nh
R_RL8 12 REF -5.410626288745
L_L9 3 13 1.285763341989nh
R_RL9 13 4 7.2053198125e-5
L_L10 4 14 88.868346143765nh
R_RL10 14 REF -5.414421542969
Kn_K1 L_L1 L_L2 0.1211525869102
Kn_K2 L_L1 L_L5 0.9982617979089
Kn_K3 L_L1 L_L8 0.867794688516
Kn_K4 L_L1 L_L10 0.8712766639815
Kn_K5 L_L2 L_L3 0.0127540781334
Kn_K6 L_L2 L_L4 0.0111119677235
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.090346866827
Kn_K9 L_L2 L_L7 -0.093668850797
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9705976026084
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9946770643229
Kn_K15 L_L3 L_L7 0.9650541775135
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.187965604862
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9655617494504
Kn_K21 L_L4 L_L7 0.9945010945642
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.053978464774
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8666417598526
Kn_K26 L_L5 L_L10 0.8700644179469
Kn_K27 L_L6 L_L7 0.9708381902359
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.186432280809
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0545370360817
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.0940961188262
Kn_K35 L_L8 L_L10 0.9928040698694
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param16_20

    *  Analysis frequencies: 725.0, 795.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param16_21 1 2 3 4 REF
C_C1 1 REF 0.1505927989684pf
C_C2 1 2 51.057176158785pf
C_C3 1 4 0.6137857726929pf
C_C4 2 REF 0.8768408817915pf
C_C5 2 3 0.2349438335136pf
C_C6 3 REF 0.6197797703337pf
C_C7 4 REF 0.6164934627489pf
R_R1 1 2 -303.3680378712
L_L1 1 5 0.6944065077905nh
R_RL1 5 2 -0.272909686481
L_L2 1 6 75.997974506749nh
R_RL2 6 3 -0.215194510735
L_L3 1 7 75.086229598517nh
R_RL3 7 4 -0.211288299404
L_L4 2 8 77.015492763265nh
R_RL4 8 3 -0.883491085074
L_L5 2 9 76.110331588204nh
R_RL5 9 4 -0.875173797583
L_L6 3 10 1.2949763105234nh
R_RL6 10 4 2.4901264624e-5
Kn_K1 L_L1 L_L2 -0.022238979481
Kn_K2 L_L1 L_L3 -0.022829476893
Kn_K3 L_L1 L_L4 -0.117046582649
Kn_K4 L_L1 L_L5 -0.118193335824
Kn_K5 L_L2 L_L3 0.9914468307335
Kn_K6 L_L2 L_L4 0.995483805546
Kn_K7 L_L2 L_L5 0.9868782602994
Kn_K8 L_L2 L_L6 -0.111220682203
Kn_K9 L_L3 L_L4 0.9870433964847
Kn_K10 L_L3 L_L5 0.9954300942453
Kn_K11 L_L3 L_L6 0.0194321132206
Kn_K12 L_L4 L_L5 0.9915603813676
Kn_K13 L_L4 L_L6 -0.110153896393
Kn_K14 L_L5 L_L6 0.0196325170375
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param16_21

    *  Analysis frequencies: 795.0, 875.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param16_22 1 2 3 4 REF
C_C1 1 REF 0.362564942639pf
C_C2 1 2 22.815038140155pf
C_C3 1 3 0.0275740504554pf
C_C4 1 4 0.3012223351277pf
C_C5 2 REF 0.6806291787121pf
C_C6 2 3 0.1321580935727pf
C_C7 3 REF 0.619887869374pf
C_C8 4 REF 0.6134672987634pf
L_L1 1 5 0.996859731958nh
R_RL1 5 2 -9.367817309e-3
L_L2 3 6 1.2958537641355nh
R_RL2 6 4 1.180046138e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param16_22

    *  Analysis frequencies: 875.0, 960.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param16_23 1 2 3 4 REF
C_C1 1 REF 0.4434966266616pf
C_C2 1 2 12.681278421707pf
C_C3 1 3 0.06954435506pf
C_C4 1 4 0.1881829744357pf
C_C5 2 REF 0.6169746535513pf
C_C6 2 3 0.0931889877846pf
C_C7 3 REF 0.6191864065579pf
C_C8 4 REF 0.6116026257068pf
L_L1 1 5 1.385857580267nh
R_RL1 5 2 -0.023437388087
L_L2 3 6 1.2937086355258nh
R_RL2 6 4 -2.118611798e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param16_23

    *  Analysis frequencies: 960.0, 1055.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param16_24 1 2 3 4 REF
C_C1 1 REF 0.480648323622pf
C_C2 1 2 8.4717656000529pf
C_C3 1 3 0.092755107955pf
C_C4 1 4 0.1401980475821pf
C_C5 2 REF 0.5958595055013pf
C_C6 2 3 0.0742560403863pf
C_C7 2 4 0.0376613299108pf
C_C8 3 REF 0.6175264673371pf
C_C9 4 REF 0.6092247056151pf
L_L1 1 5 1.7687160623469nh
R_RL1 5 2 -0.011747756083
L_L2 3 6 1.2911542936729nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param16_24

    *  Analysis frequencies: 1055.0, 1160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param16_25 1 2 3 4 REF
C_C1 1 REF 0.5019430217106pf
C_C2 1 2 6.8486665566743pf
C_C3 1 3 0.1112705436384pf
C_C4 1 4 0.1170837576827pf
C_C5 2 REF 0.5959408723034pf
C_C6 2 3 0.0609943723638pf
C_C7 2 4 0.0663029187864pf
C_C8 3 REF 0.615478425734pf
C_C9 4 REF 0.6066518330279pf
L_L1 1 5 1.9040003227933nh
R_RL1 5 2 -5.925581007e-4
L_L2 3 6 1.2879102630149nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param16_25

    *  Analysis frequencies: 1160.0, 1200.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param16_26 1 2 3 4 REF
C_C1 1 REF 0.5111645494245pf
C_C2 1 2 6.6057240004859pf
C_C3 1 3 0.124481964909pf
C_C4 1 4 0.10833624956pf
C_C5 2 REF 0.6039980328143pf
C_C6 2 3 0.0519289542893pf
C_C7 2 4 0.0794089803658pf
C_C8 3 REF 0.6138486515997pf
C_C9 4 REF 0.6046870618232pf
L_L1 1 5 1.9144767326744nh
R_RL1 5 2 5.5276599232e-5
L_L2 3 6 1.2865204181136nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param16_26

